US08114874B2
8-(Benzyloxy)-3-((trimethylsilyl)ethynyl)imidazo[1,2-a]pyridine:
A mixture of 8-(benzyloxy)-3-bromoimidazo[1,2-a]pyridine (10.0 g, 33.0 mmol), 9.39 mL (66.0 mmol) of ethynyltrimethylsilane, 0.580 g (0.825 mmol) of Pd(PPh3)2Cl2, 0.230 g (1.19 mmol) of Cul, and 5.09 mL (36.3 mmol) of diisopropylamine in 100 mL of acetonitrile was heated at reflux for 3 h under an atmosphere of N2. Upon cooling to ambient temperature, the reaction mixture was concentrated and the crude product was purified by silica gel flash chromatography (eluted with 20-50% EtOAc/hexanes) to provide 6.74 g of product: 321 m/z (M+H).

reactant | 8-(benzyloxy)-3-bromoimidazo[1,2-a]pyridine | 33.0 mmol, 10.0 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=CN2)Br | C14H11BrN2O
reactant | ethynyltrimethylsilane | 66.0 mmol, 9.39 mL | C(#C)[Si](C)(C)C | C5H10Si
reactant | diisopropylamine | 36.3 mmol, 5.09 mL | C(C)(C)NC(C)C | C6H15N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
catalyst | Pd(PPh3)2Cl2 | 0.825 mmol, 0.580 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 8-(Benzyloxy)-3-((trimethylsilyl)ethynyl)imidazo[1,2-a]pyridine | 6.74 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=CN2)C#C[Si](C)(C)C | C19H20N2OSi
